* parameterized bottom-plate driver + boosted-gate sampling switch
.subckt sw_bitcell_opt_b6 bot vin ctl trkb gb VDD VSS VSSB
MND bot ctl VSS VSSB sg13_lv_nmos w=6.0u l=0.13u rfmode=1
MPD bot ctl VDD VDD sg13_lv_pmos w=12.0u l=0.13u rfmode=1
MNT bot gb vin VSSB sg13_lv_nmos w=2.0u l=0.13u rfmode=1
MPT bot trkb vin VDD sg13_lv_pmos w=4.0u l=0.13u rfmode=1
.ends
